US07692033B2
Preparation of 2-benzoyloxyacetaldehyde diethyl acetal
Chloroacetaldehyde diethyl acetal (2.00 g), benzoic acid (2.16 g), potassium iodide (0.27 g), potassium carbonate (1.11 g) and DMF (20 mL) were placed in a three-neck flask, followed by refluxing. Twenty hours later, the reaction mixture was cooled to room temperature, and water (30 mL;) and ethyl acetate (80 mL) were added thereto, followed by stirring. After filtration, the organic layer was separated, was subjected to vacuum concentration and thereby yielded the target compound (1.74 g) in a yield of 56%.

reactant | Chloroacetaldehyde diethyl acetal | 2.00 g | C(C)OC(CCl)OCC | C6H13ClO2
reactant | benzoic acid | 2.16 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | potassium iodide | 0.27 g | [I-].[K+]
reactant | potassium carbonate | 1.11 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | 80 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 30 mL | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-benzoyloxyacetaldehyde diethyl acetal | 1.74 g, yield of 56% | C(C)OC(COC(C1=CC=CC=C1)=O)OCC | C13H18O4
